US06656660B1
With the use of 48.6 g (0.30 mole) of p-acetyloxystyrene, 17.6 g (0.10 mole) of p-tert-butoxystyrene and a catalytic amount of 2,2′-azobis(2,4-dimethylvaleronitrile), the same reaction and after-treatment as described in Production Example 2-(1) were conducted, and the resulting viscous resinous material was dissolved in 200 ml of acetone and poured into 1000 ml of 50% aqueous methanol solution. The precipitated resin was recovered by decantation and dried under reduced pressure to give 59.7 g of poly(p-acetyloxystyrene/p-tert-butoxystyrene) as white powders. A ratio of p-acetyloxystyrene unit and p-tert-butoxystyrene unit was about 3:1 by 1HNMR. Mw: about 10500, Mw/Mn: 1.32 (GPC method: polystyrene as standard).

reactant | p-acetyloxystyrene | 0.30 mole, 48.6 g | C(C)(=O)OC1=CC=C(C=C)C=C1 | C10H10O2
reactant | p-tert-butoxystyrene | 0.10 mole, 17.6 g | C(C)(C)(C)OC1=CC=C(C=C)C=C1 | C12H16O
reactant | 2,2′-azobis(2,4-dimethylvaleronitrile) | N(=NC(C#N)(CC(C)C)C)C(C#N)(CC(C)C)C | C14H24N4
reactant | methanol | 1000 ml | CO | CH4O
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | p-acetyloxystyrene p-tert-butoxystyrene | C(C)(=O)OC1=CC=C(C=C)C=C1.C(C)(C)(C)OC1=CC=C(C=C)C=C1 | InChI=1S/C12H16O.C10H10O2/c1-5-10-6-8-11(9-7-10)13-12(2,3)4;1-3-9-4-6-10(7-5-9)12-8(2)11/h5-9H,1H2,2-4H3;3-7H,1H2,2H3
